US06894061B2
5-[(4-Hydroxy-3-methylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridin-9-ol
The title compound was prepared from 9-methoxy-5-[(4-methoxy-3-methylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (0.27 g, 0.66 mmol), tetrabutylammonium iodide (0.61 g, 1.7 mmol), and 1 M boron trichloride in dichloromethane (3.3 mL, 3.3 mmol) according to the procedure and in the same manner as described in Example 35, Step b. The crude product was purified by flash column chromatography on silica gel, eluting with a mixture of ethyl acetate-hexane (3:7 to 1:1 gradient), followed by re-crystallization from a mixture of dichloromethane-hexane, to yield 5-[(4-hydroxy-3-methylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridin-9-ol as a homogeneous solid (0.10 g, 40%);

reactant | 9-methoxy-5-[(4-methoxy-3-methylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 0.66 mmol, 0.27 g | COC1=CC=C2C(N(C=3C=CC=CC3C2=C1)S(=O)(=O)C1=CC(=C(C=C1)OC)C)C | C23H23NO4S
reactant | boron trichloride | 1 M | B(Cl)(Cl)Cl | BCl3
reactant | dichloromethane | 3.3 mmol, 3.3 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammonium iodide | 1.7 mmol, 0.61 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-[(4-hydroxy-3-methylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridin-9-ol | 0.10 g, 40% | OC1=C(C=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC(=CC=C2C1C)O)C | C21H19NO4S
